US05387684
Carbon tetrachloride (2 ml) was added to ethyl 2-(3-bromo-5-methyl-2H-indazol-2-yl)benzoate (0.450 g, 1.25 mmol) as obtained in Reference Example 4, and the mixture was stirred. Thereto were added N-bromosuccinimide (0.223 g, 1.25 mmol) and azobisisobutyronitrile (21 mg, 0.125 mmol), and the mixture was refluxed under heating for 3.5 hours. After cooling, it was filtered, and the cake was washed with dichloromethane (2 ml) and the filtrate was concentrated. The residue was then dissolved in DMF (2 ml), and added to a solution obtained by adding sodium hydride (40 mg, 1.00 mmol) to 2-ethyl-5,7-dimethyl-1H-imidazo[4,5-b]pyridine (0.176 mg, 1.00 mmol) in DMF (4 ml) and stirring the solution for 30 minutes. The mixture was stirred at room temperature for 30 minutes, concentrated, and partitioned by ethyl acetate (10 ml) and water (10 ml). The organic layer was dried over magnesium sulfate, and then filtered. The filtrate was concentrated and subjected to flash chromatography on silica gel using a mixed solvent of hexane/ethyl acetate (2:3), whereby 0.176 g of 3-[3-bromo-2-(2-ethoxycarbonylphenyl)-2H-indazol-5-yl]methyl-5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridine was obtained.

reactant | ethyl 2-(3-bromo-5-methyl-2H-indazol-2-yl)benzoate | 1.25 mmol, 0.450 g | BrC=1N(N=C2C=CC(=CC12)C)C1=C(C(=O)OCC)C=CC=C1 | C17H15BrN2O2
reactant | N-bromosuccinimide | 1.25 mmol, 0.223 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.125 mmol, 21 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium hydride | 1.00 mmol, 40 mg | [H-].[Na+]
reactant | 2-ethyl-5,7-dimethyl-1H-imidazo[4,5-b]pyridine | 1.00 mmol, 0.176 mg | C(C)C=1NC=2C(=NC(=CC2C)C)N1 | C10H13N3
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | Carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-[3-bromo-2-(2-ethoxycarbonylphenyl)-2H-indazol-5-yl]methyl-5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridine | 0.176 g | BrC=1N(N=C2C=CC(=CC12)CN1C(=NC=2C1=NC(=CC2C)C)CC)C2=C(C=CC=C2)C(=O)OCC | C27H26BrN5O2
